US09428503B2
8-[6-(3-Dimethylaminopropoxy)pyridin-3-yl]-3-methyl-1-(oxan-4-yl)imidazo[5,4-c]quinolin-2-one
On a larger scale, 8-bromo-3-methyl-1-(oxan-4-yl)imidazo[5,4-c]quinolin-2-one (1700.1 g) was suspended in EtOH (20.4 L) in a 50 L vessel then K2CO3 (1948.7 g) and N,N-dimethyl-3-[5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl]oxypropan-1-amine (1731.4 g) added. EtOH (6.8 L) and purified water (5.1 L) were added to the mixture followed by the addition chloro(2-dicyclohexylphosphino-2′,4′,6′-triisopropyl-1,1′-biphenyl)[2-(2′-amino-1,1′-biphenyl)]palladium(II) (37.3 g). The mixture was heated to reflux (77-80° C.) and stirred for 30 mins at reflux then cooled to 20° C. prior to being distilled under reduced pressure to a volume of 12.6 L. The batch was then cooled to 15-25° C. and purified water (19.9 L) added. The batch was stirred for 1 h 5 mins, filtered and the filter cake washed with purified water (3×3.7 L) then dried under vacuum at 40° C. to afford crude desired material (1978 g, 91.3%). The reaction was repeated on a similar scale to deliver a further 2084 g of crude material. The purification of the crude 8-[6-(3-dimethylaminopropoxy)pyridin-3-yl]-3-methyl-1-(oxan-4-yl)imidazo[5,4-c]quinolin-2-one (2066.9 g) was carried out in 6 portions of 350 g or less. Crude 8-[6-(3-dimethylaminopropoxy)pyridin-3-yl]-3-methyl-1-(oxan-4-yl)imidazo[5,4-c]quinolin-2-one (350.1 g) was charged to a 10 L flask with EtOH (7.7 L) and heated until a solution was formed (68-73° C.). Activated charcoal (35 g) was added and the solution stirred at 70-75° C. for 1 h. The hot solution was filtered using a porosity 3 sinter funnel through a celite pad (˜40 g) in small portions to ensure the product stayed in solution. The celite pad was washed with hot EtOH (2 L) to remove any residual product, on the celite and the initial filtrate charged to the vessel and the wash filtrate was stored in a carboy. This process was repeated with the remaining portions of crude material. After completion of the 6 hot titrations carried out over 2 days the filtrate in the vessel was distilled under reduced pressure until the remaining filtrate (held in a carboy) could be added. The batch was then heated until a solution was formed (69° C.) and the distillation was then continued until the volume in the vessel was equal to 5 volumes of the input material (maximum distillation batch temperature=55° C.). The distillation was stopped and the batch cooled to 5-15° C., filtered, washed with EtOH (2.3 L) and dried to give the pure desired product (1926 g, 93.2% yield).

reactant | 8-bromo-3-methyl-1-(oxan-4-yl)imidazo[5,4-c]quinolin-2-one | 1700.1 g | BrC1=CC=2C3=C(C=NC2C=C1)N(C(N3C3CCOCC3)=O)C | C16H16BrN3O2
reactant | K2CO3 | 1948.7 g | C(=O)([O-])[O-].[K+].[K+]
reactant | N,N-dimethyl-3-[5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl]oxypropan-1-amine | 1731.4 g | CN(CCCOC1=NC=C(C=C1)B1OC(C(O1)(C)C)(C)C)C | C16H27BN2O3
reactant | charcoal | 35 g | C | CH4
solvent | EtOH | 20.4 L | CCO | C2H6O
product | 8-[6-(3-Dimethylaminopropoxy)pyridin-3-yl]-3-methyl-1-(oxan-4-yl)imidazo[5,4-c]quinolin-2-one | 1926 g, 93.2% yield | CN(CCCOC1=CC=C(C=N1)C1=CC=2C3=C(C=NC2C=C1)N(C(N3C3CCOCC3)=O)C)C | C26H31N5O3
